US07071175B1
A solution of KOH (0.266 g, 4.11 mmol) in ethanol (14 mL) was added to a solution of 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid diethyl ester (1.82 g, 4.11 mmol) in ethanol (12 mL) and methylene chloride (13 mL) at 0° C. The mixture was stirred overnight at room temperature. More KOH (80 mg dissolved in 3 mL ethanol) was added at 0° C. The reaction mixture was stirred for additional 18 h. The mixture was concentrated under reduced pressure and ethyl acetate, and 0.5 M HCl were added to the residue. The organic layer was washed with brine and dried. After filtration and evaporation in vacuo, the residue was suspended in hexane. Filtration of the crystals gave 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid monoethyl ester (1.7 g, 98%).

reactant | KOH | 4.11 mmol, 0.266 g | [OH-].[K+]
reactant | 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid diethyl ester | 4.11 mmol, 1.82 g | C(C)OC(C(C(=O)OCC)C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C24H30N2O6
reactant | KOH | 3 mL, 80 mg | [OH-].[K+]
solvent | ethanol | 14 mL | C(C)O | C2H6O
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid monoethyl ester | 1.7 g, 98% | C(C)OC(C(C(=O)O)C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C22H26N2O6
